US06624159B2
2-Benzyl-N-(4-chlorobenzyl)-9-(4-morpholinylmethyl)-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]quinazoline-6-carboxamide [AV.9]
Aqueous formaldehyde (0.25 ml, 37% solution) is added to a solution of 8-((benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (Preparation 29, 60 mg) in methanol (2.5 mL) at 50° C. The solution is allowed to cool and the resulting precipitate is filtered and washed with methanol to give 38 mg of the title compound. Physical characteristics: M.p. 203-205° C.; 1H NMR (DMSO-d6) δ2.38, 3.57, 3.73, 4.20, 4.57, 5.29, 7.2-7.4, 7.51, 8.08, 8.74, 10.4. Anal. Found: C, 68.50; H, 5.72; N, 10.29.

reactant | formaldehyde | 0.25 ml | C=O | CH2O
reactant | 8-((benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 60 mg | C(C1=CC=CC=C1)NCC=1C=C(C=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O)CN1CCOCC1 | C30H31ClN4O3
solvent | methanol | 2.5 mL | CO | CH4O
product | 2-Benzyl-N-(4-chlorobenzyl)-9-(4-morpholinylmethyl)-7-oxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]quinazoline-6-carboxamide | 38 mg | C(C1=CC=CC=C1)N1CN2C3=C(C=C(C=C3C1)CN1CCOCC1)C(C(=C2)C(=O)NCC2=CC=C(C=C2)Cl)=O | C31H31ClN4O3
